US04548870
Into a mixture of 600 ml. of tetrahydrofuran, 45.8 g. of hydroxyethyl acrylate, and 72 g. of 3-(2-chloroethylsulfonyl)propionyl chloride placed in a reaction vessel chilled with ice-water to maintain the temperature below 5° C., a solution of 31.2 g. of pyridine in 100 ml. of tetrahydrofuran was poured dropwise for 1.75 hours. The resulting mixture was stirred at room temperature for 2 hours, and poured into 2.5 l. of ice-water. The aqueous mixture was then extracted with 4 portions of 300 ml. of chloroform. The organic extract was dried over sodium sulfate, and concentrated to give 87 g. of 2-[3-(2-chloroethylsulfonyl)propionyloxy]ethyl acrylate (yield 88%).

reactant | hydroxyethyl acrylate | C(C=C)(=O)OCCO | C5H8O3
reactant | 3-(2-chloroethylsulfonyl)propionyl chloride | ClCCS(=O)(=O)CCC(=O)Cl | C5H8Cl2O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[3-(2-chloroethylsulfonyl)propionyloxy]ethyl acrylate | yield 88% | C(C=C)(=O)OCCOC(CCS(=O)(=O)CCCl)=O | C10H15ClO6S
